US06949542B2
4-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-7-propoxy-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-{3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M196) (362 mg, 0.59 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (153 mg, 54%).

reactant | (2-{3-[3-(6-cyclopropyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-5-propoxy-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.59 mmol, 362 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)C1CC1)=O)=O | C32H34F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[3-(6-Cyclopropyl-pyridin-3-yl)-phenyl]-7-propoxy-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C1(CC1)C1=CC=C(C=N1)C=1C=C(C=CC1)C1=NC2=C(NC(C1)=O)C=C(C(=C2)OCCC)C(F)(F)F | C27H24F3N3O2
